US06472386B1
Synthesis of N,N′-bis[2-[2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl]ethyl]piperazine
4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxy-phenyl)thiazole (164 mg) and piperazine (17 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-(2-Methanesulfonyloxyethyl)-2-(3,4,5-trimethoxy-phenyl)thiazole | 164 mg | CS(=O)(=O)OCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H19NO6S2
reactant | piperazine | 17 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[2-[2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl]ethyl]piperazine | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)CCN1CCN(CC1)CCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C32H40N4O6S2
